US09428502B2
Compound 349.1. 4,4,4-Trifluoro-2-oxobutanal
To a solution of SeO2 (4.23 g, 38.1 mmol) in dioxane (25 mL) was added AcOH/H2O (1 mL/1 mL). 4,4,4-Trifluorobutan-2-one (3.81 mL, 31.7 mmol) was added dropwise to the above reaction mixture. The resulting solution was stirred overnight at 100° C. The solution was used in the next step without any further work-up or purification.

reactant | AcOH H2O | 1 mL | CC(=O)O.O
reactant | 4,4,4-Trifluorobutan-2-one | 31.7 mmol, 3.81 mL | FC(CC(C)=O)(F)F | C4H5F3O
solvent | dioxane | 25 mL | O1CCOCC1 | C4H8O2
product | 4,4,4-Trifluoro-2-oxobutanal | FC(CC(C=O)=O)(F)F | C4H3F3O2
